US07297816B2
N-[2-(3,4-Dichloro-phenyl)-propyl]-2-(2,6-difluoro-benzenesulfonylamino)-4-iodo-benzamide
This compound was prepared from 2-(2,6-difluorobenzenesulfonylamino)-4-iodo-benzoic acid and 2-(3,4-dichloro-phenyl)-propylamine as in EXAMPLE 1, Part C. HPLC: RT=11.98 min. MS (ESI−): mass calcd. for C22H17Cl2F2IN2O3S, 625.3; m/z found, 624 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.63 (s, 1H), 8.02 (d, J=1.5, 1H), 7.54-7.45 (m, 1H), 7.39 (d, J=8.2, 1H), 7.34 (d, J=1.6, 1H), 7.32 (d, J=1.8, 1H), 7.09 (dd, J=8.3, 2.1, 1H), 7.02-6.94 (m, 3H), 6.34-6.32 (br m, 1H), 3.743.65 (m, 1H), 3.40 (ddd, J=13.7, 8.5, 5.6, 1H), 3.14-3.04 (m, 1H), 1.30 (d, J=7.0, 3H).

reactant | 2-(2,6-difluorobenzenesulfonylamino)-4-iodo-benzoic acid | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)I | C13H8F2INO4S
reactant | 2-(3,4-dichloro-phenyl)-propylamine | ClC=1C=C(C=CC1Cl)C(CN)C | C9H11Cl2N
product | N-[2-(3,4-Dichloro-phenyl)-propyl]-2-(2,6-difluoro-benzenesulfonylamino)-4-iodo-benzamide | ClC=1C=C(C=CC1Cl)C(CNC(C1=C(C=C(C=C1)I)NS(=O)(=O)C1=C(C=CC=C1F)F)=O)C | C22H17Cl2F2IN2O3S
